data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_297023_1,[C:1]([C:2]([O:6][H:10])=[O:7])([N:3]([H:11])[H:12])([C:4](=[O:8])[H:13])[O:5][H:9]>>[C:1](=[C:2](\[O:6][H:10])[O:7][C:4](=[O:8])[H:13])(\[N:3]([H:11])[H:12])[O:5][H:9],56.46245000001599
MR_220039_1,[C:1]1([C:2]([H:13])([H:14])[H:15])([O:5][H:9])[C:4]([N:3]([O:6][H:10])[H:12])([O:7][H:11])[O:8]1>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:3]([O:6][H:10])[H:12])([O:7][H:11])[O:8][H:9])=[O:5],18.939204999979893
MR_594912_2,[C:1](/[C:3]([C:2]([O:6][H:9])=[O:8])=[N:7]/[H:15])([N:4]([H:12])[H:13])([N:5]([H:11])[H:14])[H:10]>>[C:1](\[C:3]([C:2]([O:6][H:9])=[O:8])([N:4]([H:12])[H:13])[N:7]([H:11])[H:15])(=[N:5]/[H:14])[H:10],49.327775000016345
MR_38137_0,[C:1]([N:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[C:2]([H:13])([H:14])[H:15])[H:8])([N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1]([N:6]([H:9])[H:10])([N:7]([C:2]([H:13])([H:14])[H:15])/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:4]\[H:8])([H:11])[H:12],54.0961474999979
MR_555174_2,[C:1]([C:2](/[N:5]=[N:6]/[H:12])=[N:7]\[H:13])([N:3]([H:10])[H:11])([O:4][H:8])[H:9]>>[C:1](/[C:2](=[N:7]/[H:13])[H:9])([N:3]([H:10])[H:11])([O:4][H:8])/[N:5]=[N:6]/[H:12],43.714159999993
MR_521414_0,[C:1]([N:3](/[C:7](=[N:8]/[H:15])[H:16])[H:9])([N:4]([C:2]([H:17])([H:18])[H:19])[H:10])([N:5]([H:11])[H:12])[N:6]([H:13])[H:14]>>[C:1](\[N:3]([C:7]([N:4]([C:2]([H:17])([H:18])[H:19])[H:10])([N:8]([H:13])[H:15])[H:16])[H:9])([N:5]([H:11])[H:12])=[N:6]/[H:14],48.37836750002353
MR_217244_0,[C:1](/[N:5]=[C:3](\[N:2]([N:4][N:6][H:8])[H:7])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:5](/[C:3](=[N:2]/[H:7])[H:9])/[N:4]=[N:6]/[H:8])([H:10])([H:11])[H:12],52.0850100000105
MR_352233_0,[C@@:1]1(/[C:5]([N:6]([H:12])[H:13])=[C:7](/[O:8][H:9])[H:14])([H:10])[C@@:2]([C:4]([H:17])([H:18])[H:19])([H:11])[C:3]1([H:15])[H:16]>>[C:1]1([H:10])=[C:5]([N:6]([H:12])[H:13])[C@@:7]([O:8][H:9])([H:14])[C@@:2]([C:4]([H:17])([H:18])[H:19])([H:11])[C:3]1([H:15])[H:16],53.65815250003365
MR_585623_1,[N:1](/[N:3]=[N:5]/[H:7])([N:4]=[C:2]([H:8])[H:9])[H:6]>>[N:1](=[N:3]/[N:5]([N:4]=[C:2]([H:8])[H:9])[H:7])\[H:6],53.33750000002283
MR_557808_0,[N:1](/[C:2]([O:7][H:10])=[N:8]\[H:13])([C:3]([N:4]([H:11])[H:12])=[C:5]([H:14])[H:15])[O:6][H:9]>>[N:1](=[C:2](\[O:7][H:10])[N:8]([C:3]([N:4]([H:11])[H:12])=[C:5]([H:14])[H:15])[H:13])\[O:6][H:9],62.37098999997244
MR_67702_1,[C:1](=[N:2]\[H:8])(\[O:5][C:3](=[C:4]([H:7])[H:11])[H:10])[O:6][H:9]>>[C:1]([N:2]([H:8])[H:9])([O:5][C:3](=[C:4]([H:7])[H:11])[H:10])=[O:6],34.092074999995674
MR_180070_0,[C:1]([O:2][O:3][H:6])([O:4][H:7])=[O:5]>>[C:1]([O:3][O:2][H:6])([O:4][H:7])=[O:5],62.83345749994624
MR_405291_1,[C:1](/[C:3](=[C:2](\[N:4]([H:11])[H:12])[O:6][H:9])[O:7][H:10])([C:5]([N:8][H:13])[H:16])([H:14])[H:15]>>[C:1](=[C:3]([C@:2]([N:4]([H:11])[H:12])(/[C:5](=[N:8]/[H:13])[H:16])[O:6][H:9])[O:7][H:10])([H:14])[H:15],56.23780500001246
MR_612660_0,[C@:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4](=[C:5]([H:16])[H:17])[H:12])=[O:9])([O:6][O:7][H:10])[O:8][H:11]>>[C@@:1]([C:2]([H:13])([H:14])[H:15])([C:3]([O:6][O:7][H:10])=[O:9])([C:4](=[C:5]([H:16])[H:17])[H:12])[O:8][H:11],48.67140999999705
MR_438586_0,[C:1]([C:2]([O:6][H:10])([O:7][H:11])[H:13])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:5]([O:8][H:12])=[O:9]>>[C:1]([C:2](=[O:6])[O:7][H:11])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:5]([O:8][H:12])([O:9][H:10])[H:13],62.71925249998489
MR_105926_0,[C:1]([C:3](/[N:5]=[C:4](/[C:2]([H:11])([H:12])[H:13])[H:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C:3]1=[N:5][C@:4]([C:2]([H:11])([H:12])[H:13])([H:7])[O:6]1)([H:8])([H:9])[H:10],36.16470749997049
MR_70736_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:5]([C:4]([O:6][H:9])=[O:7])=[O:8])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:9])=[O:7])[C:5](=[O:8])[H:10],67.6708550000032
MR_706787_1,[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](/[N:4]([H:11])[H:12])[H:13])([O:6][H:8])([O:7][H:9])[H:10]>>[C:1](=[C:3](\[C:2]([H:14])([H:15])[H:16])[C@:5]([N:4]([H:11])[H:12])([O:7][H:9])[H:13])(\[O:6][H:8])[H:10],48.35766000000447
MR_627774_1,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:4]12[C:5]([H:15])([H:16])[N:6]1[N:7]2[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:4](=[C:5]([H:15])[H:16])/[N:6]=[N:7]/[H:8])([H:9])([H:10])[H:11],50.76977000001392
MR_248007_2,[N:1]([N:2]([C:4]([O:5][H:9])=[O:8])[H:12])([C:3]([O:6][H:10])=[O:7])[H:11]>>[N:1]([N:2]([C:3]([O:6][H:10])=[O:7])[H:12])([C:4]([O:5][H:9])=[O:8])[H:11],23.89708250001803
MR_544888_1,[C:1]([O:7][C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:14])([O:9][H:10])[H:13])[H:12])(=[O:8])[H:11]>>[C:1]([C:5](=[C:6]([H:18])[H:19])[H:14])([O:7][C:2]([C:3]([H:15])([H:16])[H:17])([C:4](=[O:9])[H:13])[H:12])([O:8][H:10])[H:11],62.02209999999724
